US08283442B2
In a pressure vessel containing 3,3-dimethylmorpholine (12.15 g, 106 mmol) in MeOH (17 mL) at −78° C. (external temperature, acetone/CO2(s)) was added ethylene oxide (6.2 mL, 125 mmol, 1.2 equiv., condensed at −78° C.). The solution was sealed and stirred over 20 hours, during which time the temperature warmed to room temperature. The reaction mixture was concentrated in vacuo and the crude product was distilled (75° C., 0.5 torr) to provide 2-(3,3-dimethyl-morpholin-4-yl)-ethanol (14 g, 82%) as a colorless oil contaminated with ˜15% of 3,3-dimethyl-morpholine. LC/MS found 160.10 (M++H, C8H18NO2 requires 160.13).

reactant | 3,3-dimethylmorpholine | 106 mmol, 12.15 g | CC1(NCCOC1)C | C6H13NO
reactant | acetone CO2 | CC(=O)C.C(=O)=O
reactant | ethylene oxide | 125 mmol, 6.2 mL, 1.2 equiv. | C1CO1 | C2H4O
solvent | MeOH | 17 mL | CO | CH4O
product | 2-(3,3-dimethyl-morpholin-4-yl)-ethanol | 14 g, 82% | CC1(N(CCOC1)CCO)C | C8H17NO2
